US07253286B2
After dissolving N-methyl-4-benzyloxy-2-methylaniline (2.64 g, 11.61 mmol) in N,N-dimethylformamide (20 ml), sodium hydride (1.16 g, 29.00 mmol, 60% in oil) was added and the mixture was stirred at 85° C. for 45 minutes under a nitrogen atmosphere. Phenyl N-(4-fluorophenyl)carbamate (3.50 g, 12.76 mmol) was added and the mixture was further stirred at 85° C. for 1 hour under a nitrogen atmosphere. After cooling to room temperature, water was added to the reaction solution, extraction was performed with ethyl acetate, the extract was washed with saturated brine and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was adsorbed onto NH silica gel and subjected to crude purification by NH silica gel column chromatography (hexane-ethyl acetate-ethanol) to obtain N′-(4-benzyloxy-2-methylphenyl)-N-(4-fluorophenyl)-N′-methylurea (2.66 g) as a yellow oil. This was dissolved in methanol (50 ml), and then 10% palladium carbon (0.2 g) was added and the mixture was stirred for 2 hours at room temperature under a hydrogen atmosphere. The catalyst was filtered off, and then filtrate was washed with ethanol, and the solvent was distilled off under reduced pressure. The precipitated crystals were suspended in ethanol, the suspension was diluted with diethyl ether and hexane, and the crystals were filtered out, washed with hexane and dried by aspiration to obtain the title compound (0.83 g, 3.0258 mmol, 41.86%) as brown crystals.

reactant | N-methyl-4-benzyloxy-2-methylaniline | 11.61 mmol, 2.64 g | CNC1=C(C=C(C=C1)OCC1=CC=CC=C1)C | C15H17NO
reactant | sodium hydride | 29.00 mmol, 1.16 g | [H-].[Na+]
reactant | Phenyl N-(4-fluorophenyl)carbamate | 12.76 mmol, 3.50 g | FC1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C13H10FNO2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N′-(4-benzyloxy-2-methylphenyl)-N-(4-fluorophenyl)-N′-methylurea | 2.66 g | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)N(C(NC1=CC=C(C=C1)F)=O)C)C | C22H21FN2O2
